US07105544B2
1-(4-FLUOROPHENYL)-N-(3-{4-[3-(ISOBUTYRYLAMINO)PHENYL]-1-PIPERIDINYL}PROPYL)CYCLOPENTANECARBOXAMIDE
Example 36 was prepared from 1-(4-fluorophenyl)cyclopentanecarboxylic acid and N-{3-[1-(3-aminopropyl)-4-piperidinyl]phenyl}-2-methylpropanamide according to the procedures described in Scheme 9: 1H NMR (400 MHz, CDCl3) δ 7.53 (s, 1H), 7.33 (dd, 2H, J=5.8, 3.6 Hz,), 7.29–7.26 (m, 2H), 7.25–7.20 (m, 1H), 7.02–6.95 (m, 2H), 6.93 (d, 1H, J=7.1 Hz), 6.54–6.49 (m, 1H), 3.26 (q, 2H, J=6.5 Hz), 3.22–3.14 (m, 1H), 2.90 (d, 1H, J=12.0 Hz), 2.55–2.37 (m, 4H), 2.29 (t, 2H, J=6.5 Hz), 2.06 (s, 4H), 2.00–1.90 (m, 3H), 1.82–1.75 (m, 4H), 1.73–1.66 (m, 3H), 1.65–1.57 (m, 4H), 1.25 (d, 6H, J=6.7 Hz); ESMS m/e: 494.3 (M+H)+; Anal. Calc. for C30H40FN3O2.0.10 CHCl3.0.650 DMF: C, 70.92; H, 8.27; N, 8.64. Found: C, 70.83; H, 8.11; N, 8.93.

reactant | 1-(4-fluorophenyl)cyclopentanecarboxylic acid | FC1=CC=C(C=C1)C1(CCCC1)C(=O)O | C12H13FO2
reactant | N-{3-[1-(3-aminopropyl)-4-piperidinyl]phenyl}-2-methylpropanamide | NCCCN1CCC(CC1)C=1C=C(C=CC1)NC(C(C)C)=O | C18H29N3O
reactant | CHCl3 | C(Cl)(Cl)Cl | CHCl3
solvent | DMF | CN(C)C=O | C3H7NO
product | 1-(4-FLUOROPHENYL)-N-(3-{4-[3-(ISOBUTYRYLAMINO)PHENYL]-1-PIPERIDINYL}PROPYL)CYCLOPENTANECARBOXAMIDE | FC1=CC=C(C=C1)C1(CCCC1)C(=O)NCCCN1CCC(CC1)C1=CC(=CC=C1)NC(C(C)C)=O | C30H40FN3O2
